### PR TITLE
[Merged by Bors] - feat: `lintegral_piecewise`

### PR DESCRIPTION
**Pull request by YaelDillies**
From PFR

Co-authored-by: Rémy Degenne <remydegenne@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 1]
```diff
@@ -1320,6 +1320,15 @@ theorem lintegral_add_compl (f : α → ℝ≥0∞) {A : Set α} (hA : Measurabl
     ∫⁻ x in A, f x ∂μ + ∫⁻ x in Aᶜ, f x ∂μ = ∫⁻ x, f x ∂μ := by
   rw [← lintegral_add_measure, Measure.restrict_add_restrict_compl hA]
 
+lemma lintegral_piecewise (hs : MeasurableSet s) (f g : α → ℝ≥0∞) [∀ j, Decidable (j ∈ s)] :
+    ∫⁻ a, s.piecewise f g a ∂μ = ∫⁻ a in s, f a ∂μ + ∫⁻ a in sᶜ, g a ∂μ := by
+  rw [← lintegral_add_compl _ hs]
+  congr 1
+  · refine setLIntegral_congr_fun hs ?_
+    exact ae_of_all μ (fun a ha ↦ Set.piecewise_eq_of_mem _ _ _ ha)
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:1328]: Nit: 
```suggestion
    exact ae_of_all μ fun a ha ↦ Set.piecewise_eq_of_mem _ _ _ ha
```
or perhaps even with some eta reduction

**Review by eric-wieser — APPROVED** [review]
bors d+

Consider co-authored-by if someone else wrote this for pfr

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean (hunk 1 above)
Comment (b-mehta) [reply Mathlib/MeasureTheory/Integral/Lebesgue.lean:1328]: you could also go further:
```suggestion
  · exact setLIntegral_congr_fun hs <| ae_of_all μ fun _ ↦ Set.piecewise_eq_of_mem _ _ _
  · exact setLIntegral_congr_fun hs.compl <| ae_of_all μ fun _ ↦ Set.piecewise_eq_of_not_mem _ _ _
```

File: Mathlib/MeasureTheory/Integral/Lebesgue.lean [hunk 2]
```diff
@@ -1320,6 +1320,15 @@ theorem lintegral_add_compl (f : α → ℝ≥0∞) {A : Set α} (hA : Measurabl
...
+  · refine setLIntegral_congr_fun hs.compl ?_
+    exact ae_of_all μ (fun a ha ↦ Set.piecewise_eq_of_not_mem _ _ _ ha)
```
Comment (b-mehta) [inline Mathlib/MeasureTheory/Integral/Lebesgue.lean:1330]:
```suggestion
  · exact setLIntegral_congr_fun hs <| ae_of_all μ fun _ ↦ Set.piecewise_eq_of_mem _ _ _
  · exact setLIntegral_congr_fun hs.compl <| ae_of_all μ fun _ ↦ Set.piecewise_eq_of_not_mem _ _ _
```
going further than Eric's suggestion (although I had to make it a different thread so github gets the correct diff)
